US09062076B2
To a stirred solution of 5,6-dimethoxybenzo[b]thiophene-2-carboxylic acid (714 mg, 3 mmol) and DMF (20 μl) in anhydrous DCM (20 mL) was added oxalyl chloride (0.5 mL, 6 mmol) dropwise at 0° C. The mixture was then allowed to warm to room temperature and stirring was continued until the acid was consumed completely (about 1 h). The solvent was removed under reduced pressure and the crude 5,6-dimethoxybenzo[b]thiophene-2-carbonyl chloride was used directly in the next step. To a stirred solution of methyl 2-aminobenzoate (500 mg, 3.3 mmol) and Et3N (1.25 mL, 9 mmol) in anhydrous DCM (20 mL) was added 5,6-dimethoxybenzo[b]thiophene-2-carbonyl chloride in anhydrous DCM (2 mL) dropwise at 0° C. The resulting mixture was stirred at room temperature overnight. The reaction was quenched with water and extracted with DCM. The organic extract was dried over sodium sulfate, the solvent was removed under reduced pressure and the crude product was purified by re-crystallization from EtOH to give methyl 2-(5,6-dimethoxybenzo[b]thiophene-2-carboxamido)benzoate as a white solid (650 mg, 55%). LC-MS (ES-API); rt 9.38 min; m/z calculated for C19H17NO5S [M+H]+ 372.1, found 372.1.

reactant | 5,6-dimethoxybenzo[b]thiophene-2-carboxylic acid | 3 mmol, 714 mg | COC1=CC2=C(SC(=C2)C(=O)O)C=C1OC | C11H10O4S
reactant | oxalyl chloride | 6 mmol, 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 2-aminobenzoate | 3.3 mmol, 500 mg | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | Et3N | 9 mmol, 1.25 mL | CCN(CC)CC | C6H15N
reactant | 5,6-dimethoxybenzo[b]thiophene-2-carbonyl chloride | COC1=CC2=C(SC(=C2)C(=O)Cl)C=C1OC | C11H9ClO3S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 μl | CN(C)C=O | C3H7NO
product | methyl 2-(5,6-dimethoxybenzo[b]thiophene-2-carboxamido)benzoate | 650 mg, 55% | COC1=CC2=C(SC(=C2)C(=O)NC2=C(C(=O)OC)C=CC=C2)C=C1OC | C19H17NO5S
